US07632838B2
To a microwave vial were charged 4-(phenylsulfonyl)piperidine (300 mg, 1.33 mmol), 2-chloro-3-(trifluoromethyl)pyridine, (484 mg, 2.66 mmol), diisopropylethylamine (0.695 mL, 3.99 mmol) and 1,4-Dioxane (0.2 mL). The reaction mixture thus prepared was irradiated at 200° C. for 1 hour. The reaction was complete as determined by TLC. The residue was added with saturated NH4Cl (aq.) and extracted with ethylacetate, washed with 10% HCl (aq.), water then brine. Organic layer was dried over MgSO4. Solvent evaporation afforded 2-[4-(phenylsulfonyl)piperidin-1-yl]-3-(trifluoromethyl)pyridine in 55% yield (270 mg) as white solid.

reactant | 4-(phenylsulfonyl)piperidine | 1.33 mmol, 300 mg | C1(=CC=CC=C1)S(=O)(=O)C1CCNCC1 | C11H15NO2S
reactant | 2-chloro-3-(trifluoromethyl)pyridine | 2.66 mmol, 484 mg | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | diisopropylethylamine | 3.99 mmol, 0.695 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | 1,4-Dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | 2-[4-(phenylsulfonyl)piperidin-1-yl]-3-(trifluoromethyl)pyridine | 55% yield | C1(=CC=CC=C1)S(=O)(=O)C1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C17H17F3N2O2S
